US05670505
A solution of benzyl (2S)-2-[N-(tert-butoxycarbonyl)amino]-3-(2-naphthyl)propionate (5.0 g) in dimethylformamide (50 ml) was added dropwise to a stirred mixture of 60% sodium hydride (0.6 g) and dimethylformamide (50 ml) at ice-bath temperature. After the addition was completed, the reaction mixture was stirred at the same temperature for 30 minutes. Benzyl bromide (1.76 ml) was added and then the whole mixture was stirred for 3.5 hours. Additional benzyl bromide (0.4 ml) was added and then stirred for 2.5 hours. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed successively with 1N hydrochloric acid, aqueous sodium bicarbonate solution and brine and dried over magnesium sulfate. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on silica gel eluting with a mixture of n-hexane and ethyl acetate (4:1) to give benzyl (2S)-2-[N-(tert-butoxycarbonyl)-N-benzylamino]-3-(2-naphthyl)propionate (3.53 g).

reactant | benzyl (2S)-2-[N-(tert-butoxycarbonyl)amino]-3-(2-naphthyl)propionate | 5.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C25H27NO4
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | Benzyl bromide | 1.76 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl bromide | 0.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | benzyl (2S)-2-[N-(tert-butoxycarbonyl)-N-benzylamino]-3-(2-naphthyl)propionate | 3.53 g | C(C)(C)(C)OC(=O)N(CC1=CC=CC=C1)[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC2=CC=CC=C2C=C1 | C32H33NO4
